US09359336B2
To the reaction mixture of 5-bromo-3-cyanopyridine (3 g, 15.9 mmol, 1 eq), sodium iodide (4.77 g, 2 eq), copper(I) iodide (303 mg, 0.1 eq) in anhydrous 1,4-dioxane (40 mL) under nitrogen atmosphere was added trans-N,N′-dimethylcyclohexane-1,2-diamine (0.52 mL, 0.2 eq). After the reaction mixture was heated at 120° C. for 16 hours, it was cooled to room temperature and partitioned between aqueous ammonium chloride and ethyl acetate. The organic layer was isolated, washed with saturated aqueous sodium bicarbonate, brine, and dried with anhydrous sodium chloride. The upper clear solution was decanted, concentrated, and the brown oily residue was subject to a column chromatography (EtOAc-Hex 1:15 to 1:4) yielding 3-iodo-5-isocyanopyridine as a white solid in the amount of 2.41 g.

reactant | 5-bromo-3-cyanopyridine | 15.9 mmol, 3 g, 1 eq | BrC=1C=C(C=NC1)C#N | C6H3BrN2
reactant | sodium iodide | 4.77 g, 2 eq | [I-].[Na+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.52 mL, 0.2 eq | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 303 mg, 0.1 eq | [Cu]I
product | 3-iodo-5-isocyanopyridine | IC=1C=NC=C(C1)[N+]#[C-] | C6H3IN2
